US07375115B2
N-[1-[2-[1-[2-[3,5-Bis(hydroxymethyl)phenoxy]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide
To a solution of N-[1-[2-[1-[2-[3,5-bis(acetoxymethyl)phenoxy]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (276 mg) dissolved in methanol (4 mL) was added potassium carbonate (11 mg). The solution was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure. Saturated aqueous sodium bicarbonate solution was added to the solution, and it was extracted with chloroform-ethanol (80:20). The organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was then concentrated under reduced pressure to give the title compound (228 mg).

reactant | N-[1-[2-[1-[2-[3,5-bis(acetoxymethyl)phenoxy]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 276 mg | C(C)(=O)OCC=1C=C(OCCC2(CCCCC2)CCN2CCC(CC2)N(C(=O)C=2OC=CC2)C2=CC=C(C=C2)C)C=C(C1)COC(C)=O | C39H50N2O7
reactant | potassium carbonate | 11 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | N-[1-[2-[1-[2-[3,5-Bis(hydroxymethyl)phenoxy]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 228 mg | OCC=1C=C(OCCC2(CCCCC2)CCN2CCC(CC2)N(C(=O)C=2OC=CC2)C2=CC=C(C=C2)C)C=C(C1)CO | C35H46N2O5
